US08017611B2
Bis(triphenylphosphine) palladium (II) chloride (0.121 g) and caesium fluoride (1.56 g) were added to a degassed solution of 5-bromo-3-oxazolo[5,4-b]pyridin-2-yl-pyridin-2-amine (1 g) and 4-boronobenzoic acid (0.570 g) in methanol (15 ml) under nitrogen atmosphere. The suspension was stirred at 120° C. for 20 min in a 300 W microwave reactor. The reaction mixture was then stirred at 130° C. for 20 minutes in a 300 W microwave reactor. The mixture was diluted with water (25 ml) and stirred for 30 min. The yellow suspension was filtered, washed with water (4×15 ml), washed with diethyl ether (4×15 ml) and dried overnight to give 4-(6-amino-5-oxazolo[5,4-b]pyridin-2-yl-3-pyridyl)benzoic acid (1.090 g, 95%). NMR Spectrum: (DMSOd6) 7.54 (dd, 1H), 7.89 (d, 2H), 7.95 (bs, 2H), 8.03 (d, 2H), 8.30 (dd, 1H), 8.41 (dd, 1H), 8.60 (d, 1H), 8.71 (d, 1H); Mass spectrum: M+H+ 333

reactant | caesium fluoride | 1.56 g | [F-].[Cs+]
reactant | 5-bromo-3-oxazolo[5,4-b]pyridin-2-yl-pyridin-2-amine | 1 g | BrC=1C=C(C(=NC1)N)C=1OC2=NC=CC=C2N1 | C11H7BrN4O
reactant | 4-boronobenzoic acid | 0.570 g | B(O)(O)C1=CC=C(C(=O)O)C=C1 | C7H7BO4
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 25 ml | O | H2O
catalyst | Bis(triphenylphosphine) palladium (II) chloride | 0.121 g | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(6-amino-5-oxazolo[5,4-b]pyridin-2-yl-3-pyridyl)benzoic acid | 1.090 g, 95% | NC1=C(C=C(C=N1)C1=CC=C(C(=O)O)C=C1)C=1OC2=NC=CC=C2N1 | C18H12N4O3
